US05763458
1-(4-Acetylamino-5-chloro-2-hydroxyphenyl)-5-chloropentan-1-one (1.07 g, 3.5 mmol), potassium carbonate (1.38 g, 10.0 mmol) and iodomethane (0.62 mL, 10.0 mmol) were combined in methyl ethyl ketone (20 mL) and stirred at reflux temperature for 4 hours, 15 minutes. The mixture was partitioned between ethyl acetate and water. The ethyl acetate layer was separated, washed in brine, dried over sodium sulfate, and then evaporated to leave a solid residue. Crystallization of the residue from ethyl acetate-hexanes gave 1-(4-acetylamino-5-chloro-2-methoxyphenyl)-5-chloro-pentan-1-one (0.720 g, 2.37 mmol), m.p. 98°-100° C.

reactant | 1-(4-Acetylamino-5-chloro-2-hydroxyphenyl)-5-chloropentan-1-one | 3.5 mmol, 1.07 g | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)O | C13H15Cl2NO3
reactant | potassium carbonate | 10.0 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 10.0 mmol, 0.62 mL | IC | CH3I
solvent | methyl ethyl ketone | 20 mL | C(C)C(=O)C | C4H8O
product | 1-(4-acetylamino-5-chloro-2-methoxyphenyl)-5-chloro-pentan-1-one | 2.37 mmol, 0.720 g | C(C)(=O)NC1=CC(=C(C=C1Cl)C(CCCCCl)=O)OC | C14H17Cl2NO3
